.title KiCad schematic
U1 A1 B1 A2 B2 A3 B3 A4 B4 Y1 Z1 Y2 Z2 Y3 Z3 Y4 Z4 PORT
U4 A2 Net-_U12-Pad1_ d_inverter
U5 B2 Net-_U13-Pad2_ d_inverter
U3 B1 Net-_U11-Pad2_ d_inverter
U2 A1 Net-_U10-Pad1_ d_inverter
U8 A4 Net-_U16-Pad1_ d_inverter
U9 B4 Net-_U17-Pad2_ d_inverter
U23 Y2 Z2 d_inverter
U19 Net-_U12-Pad3_ Net-_U13-Pad3_ Y2 d_or
U13 A2 Net-_U13-Pad2_ Net-_U13-Pad3_ d_and
U12 Net-_U12-Pad1_ B2 Net-_U12-Pad3_ d_and
U22 Y1 Z1 d_inverter
U10 Net-_U10-Pad1_ B1 Net-_U10-Pad3_ d_and
U11 A1 Net-_U11-Pad2_ Net-_U11-Pad3_ d_and
U18 Net-_U10-Pad3_ Net-_U11-Pad3_ Y1 d_or
U7 B3 Net-_U15-Pad2_ d_inverter
U6 A3 Net-_U14-Pad1_ d_inverter
U17 A4 Net-_U17-Pad2_ Net-_U17-Pad3_ d_and
U16 Net-_U16-Pad1_ B4 Net-_U16-Pad3_ d_and
U15 A3 Net-_U15-Pad2_ Net-_U15-Pad3_ d_and
U14 Net-_U14-Pad1_ B3 Net-_U14-Pad3_ d_and
U21 Net-_U16-Pad3_ Net-_U17-Pad3_ Y4 d_or
U20 Net-_U14-Pad3_ Net-_U15-Pad3_ Y3 d_or
U25 Y4 Z4 d_inverter
U24 Y3 Z3 d_inverter
.end
